US07589042B2
Synthesis of (dichloro)(pentamethylcyclopentadienyl)(4-methyl-2,6-diphenylphenoxy)titanium(IV)
4-methyl-2,6-diphenylphenol (400 mg, 1.53 mmol) and sodium hydride (110 mg, 4.60 mmol) were dissolved in 10 mL of toluene, and then refluxed for 4 hours. Subsequently, cooling to normal temperature was conducted, a solution in which (trichloro)(pentamethylcyclopentadienyl)titanium(IV) (376 mg, 1.30 mmol) was dissolved in 5 mL of toluene was slowly dropped thereonto, and reflux was conducted for 24 hours. After the reaction finished, volatile materials were removed, washing was conducted using purified hexane, recrystallization was conducted using a mixed solution of toluene/hexane at −35° C., filtration was conducted, and drying was conducted at reduced pressure to produce 308 mg of red solid component.

reactant | 4-methyl-2,6-diphenylphenol | 1.53 mmol, 400 mg | CC1=CC(=C(C(=C1)C1=CC=CC=C1)O)C1=CC=CC=C1 | C19H16O
reactant | sodium hydride | 4.60 mmol, 110 mg | [H-].[Na+]
reactant | (trichloro)(pentamethylcyclopentadienyl)titanium(IV) | 1.30 mmol, 376 mg | Cl[Ti](C1(C(=C(C(=C1C)C)C)C)C)(Cl)Cl
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | (dichloro)(pentamethylcyclopentadienyl)(4-methyl-2,6-diphenylphenoxy)titanium(IV) | 308 mg, Yield: 46% | Cl[Ti](OC1=C(C=C(C=C1C1=CC=CC=C1)C)C1=CC=CC=C1)(C1(C(=C(C(=C1C)C)C)C)C)Cl | InChI=1S/C19H16O.C10H15.2ClH.Ti/c1-14-12-17(15-8-4-2-5-9-15)19(20)18(13-14)16-10-6-3-7-11-16;1-6-7(2)9(4)10(5)8(6)3;;;/h2-13,20H,1H3;1-5H3;2*1H;/q;;;;+3/p-3
